US06635655B1
6-[3-(t-Butyldiphenylsilyloxymethyl)-phenyl]-hex-5-ynol
To a solution of t-Butyl-diphenyl(3-iodo-benzyloxy)silane (8.49 g, 18 mmol) in THF (70 mL) is added hex-5-ynol (2.5 mL, 22 mmol) and (Ph3P)4Pd (990 mg, 0.85 mmol) and CuI (171 mg, 0.9 mmol). This solution is degassed and placed under an argon atmosphere. To this solution is added piperidine (5.4 mL, 54 mmol) and stirring continued for 4 h. The reaction mixture is diluted with ether, washed with water and brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (silica, 30% ethyl acetate in hexanes) to give the title compound as an oil (6.84 g). 1H NMR (300 MHz, CDCl3): δ 7.70 (m, 4H), 7.40 (m, 6H), 7.27 (m, 4H), 4.71 (s, 2H), 3.71 (t, 2H), 2.47 (t, 2H), 1.74 (m, 4H), 1.10 (s, 9H).

reactant | t-Butyl-diphenyl(3-iodo-benzyloxy)silane | 18 mmol, 8.49 g | C(C)(C)(C)[Si](OCC1=CC(=CC=C1)I)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H25IOSi
reactant | hex-5-ynol | 22 mmol, 2.5 mL | C(CCCC#C)O | C6H10O
reactant | piperidine | 54 mmol, 5.4 mL | N1CCCCC1 | C5H11N
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | (Ph3P)4Pd | 0.85 mmol, 990 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 0.9 mmol, 171 mg | [Cu]I
product | 6-[3-(t-Butyldiphenylsilyloxymethyl)-phenyl]-hex-5-ynol | 6.84 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C(C=CC1)C#CCCCCO | C29H34O2Si
